US08076482B2
Preparation of racemic (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one
A mixture of racemic (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (30 mg, 0.05 mmol) and P2S5 (44 mg, 0.2 mmol) in THF (1 mL) was stirred at room temperature overnight, and then diluted with toluene (10 mL). The mixture was concentrated in vacuo and the residue was washed with DCM twice. The DCM solution was collected and purified by flash chromatography to give the title compound as white solid (12 mg).

reactant | 6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.05 mmol, 30 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC1(CCC1)C(=O)OC)=O)C1=C(C=CC(=C1)F)C)=O | C31H27Cl2FN2O5
reactant | P2S5 | 0.2 mmol, 44 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one | 12 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC1(CCC1)C(=O)OC)=S)C1=C(C=CC(=C1)F)C)=O | C31H27Cl2FN2O4S
